US07960409B2
Step 2: 1,1-dicyclopropylprop-2-yn-1-ol
To a solution of 1,1-dicyclopropyl-3-(trimethylsilyl)prop-2-yn-1-ol (2.25 g, 10.6 mmol) in THF (100 mL), a 1M solution of tetrabutyl ammonium fluoride in THF (37.2 mL, 37.2 mmol) was added. The reaction was then stirred 1 hour at room temperature. The reaction mixture was then poured into an aqueous 5% NH4OAc solution and diluted with ethyl acetate. The isolated organic layer was washed with brine, dried over MgSO4, filtered and concentrated. The crude residue obtained was purified by column chromatography (ethyl acetate/hexanes, 20:80) to afford the title compound. 1H NMR (400 MHz, acetone-d6): 4.17 (s, 1H), 2.75 (s, 1H), 1.25-1.15 (m, 2H), 0.65-0.55 (m, 2H), 0.55-0.30 (m, 6H).

reactant | 1,1-dicyclopropyl-3-(trimethylsilyl)prop-2-yn-1-ol | 10.6 mmol, 2.25 g | C1(CC1)C(C#C[Si](C)(C)C)(O)C1CC1 | C12H20OSi
reactant | tetrabutyl ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 37.2 mmol, 37.2 mL | C1CCOC1 | C4H8O
product | 1,1-dicyclopropylprop-2-yn-1-ol | C1(CC1)C(C#C)(O)C1CC1 | C9H12O
